Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, chills
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ man with a history of cirrhosis and 
Caroli syndrome who is transferred from ___ 
after developing fever and chills at home in the setting of 
previous bouts of cholangitis and recent discontinuation of 
prophylactic antibiotics.
#) Bacteremia: The patient is growing Gram negative rods in at 
least one bottle at ___-- pan resistant. His 
urine culture has been negative to date and urinalysis at ___ 
___ was not suggestive of infection. Influenza swab was also 
reportedly negative at ___. The most likely source of 
the GNRs would seem to be the patient's biliary tract. He has no 
meningeal or coryza-type symptoms. He has no murmur or stigmata 
of endocarditis. He does endorse diarrhea, but only in the 
setting of IV antibiotics. The patient is hemodynamically 
stable.
 
Past Medical History:
-Caroli Syndrome diagnosed ___ years ago
-Cirrhosis
-Inguinal hernia repair in ___

 
Social History:
___
Family History:
Mother is alive with heart disease. Father died at ___ of 
?cancer. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: T 99.5 BP 109/70 HR 87 RR 18 95% RA
GENERAL: ___ M who appears stated age. Comfortable, appropriate
HEENT: Sclera anicteric. PERRL, EOMI. Oropharynx clear and 
without erythema or exudate.
NECK: Supple with low JVP
CARDIAC: RRR, S1 S2 clear and of good quality without murmurs, 
rubs or gallops. No S3 or S4 appreciated.
LUNGS: Respiartions were unlabored, no accessory muscle use, 
moving air well and symmetrically. CTAB, no crackles, wheezes, 
or rhonchi.
ABDOMEN: Distended but soft, non-tender to palpation. Mild 
tenderness to palpation in RUQ and epigastric areas. Unbilical 
hernia.
EXTREMITIES: Warm and well perfused, no clubbing or cyanosis. 
Wearing compression stockings. Ecchymosis on right ankle and 
knee. No lower extremity edema.

Discharge exam: 
VS: Tm 98.3 ___ 18 96-98% RA  
GENERAL: ___ M who appears stated age. Comfortable, appropriate 
 
HEENT: AT, NC, EOMI.  
CARDIAC: RRR, no M/R/G. No S3 or S4 appreciated.  
LUNGS: Respirations unlabored, no accessory muscle use, moving 
air well and symmetrically. CTAB, no crackles, wheezes, or 
rhonchi.  
ABDOMEN: Distended but soft, non-tender to palpation. Mild 
tenderness to palpation in RUQ and epigastric areas.  
EXTREMITIES: Warm and well perfused, no clubbing or cyanosis. 1+ 
lower extremity edema.  
 
Pertinent Results:
ADMISSION LABS
___ 06:01AM BLOOD WBC-2.3* RBC-3.50* Hgb-11.7* Hct-34.6* 
MCV-99* MCH-33.4* MCHC-33.8 RDW-14.0 Plt Ct-24*#
___ 06:01AM BLOOD Neuts-73* Bands-9* Lymphs-12* Monos-6 
Eos-0 Baso-0 ___ Myelos-0
___ 06:01AM BLOOD ___
___ 06:01AM BLOOD Glucose-109* UreaN-18 Creat-1.1 Na-141 
K-3.6 Cl-110* HCO3-21* AnGap-14
___ 06:01AM BLOOD ALT-37 AST-43* LD(LDH)-188 AlkPhos-63 
TotBili-0.9
___ 06:01AM BLOOD Albumin-2.8* Calcium-7.5* Phos-2.3* 
Mg-1.8

CXR ___:
IMPRESSION:  Linear opacity in the left lower lung is most 
likely due to atelectasis but in view of the clinical history 
pneumonia should be considered.

MRCP ___.  Dilated bile ducts within the right lobe of the liver 
consistent with 
patient's history of Caroli's disease.  No evidence of abscess 
or cholangitis. 
2. Cirrhotic liver with evidence of portal hypertension 
(splenomegaly and 
varices).   
3. Umbilical hernia containing large paraumbilical varices.   
4. New small volume ascites.   
5. New small bilateral pleural effusions with associated bibasal 
atelectasis. 
  
  

 
Brief Hospital Course:
___ man with a history of cirrhosis and Caroli syndrome 
with multiple prior episodes of ___ transferred from 
___ after developing fever and chills after 
recent discontinuation of prophylactic antibiotics.  

# Bacteremia/Cholangitis: Pt presented from OSH with fevers, 
similar presentation to prior episodes of cholangitis. OSH blood 
cultures grew multiple strains of gram negative rods, most 
likely biliary source given chronic intrahepatic biliary 
dilatation from underlying Caroli disease. MRCP ___ not 
concerning for biloma or hepatic abscess. Initially treated with 
ceftriaxone, metronidazole ___ imipenem-cilastatin and 
sulfamethoxazole-trimehtoprim ___. Culture specimens 
were obtained from OSH and grew E coli. Based on sensitivities, 
antibiotics were changed to cefepime and a PICC was placed. All 
surveillance blood cultures remained negative. Pt remained 
afebrile for remainder of admission and discharged with plan to 
continue antibiotics via PICC for 3 weeks until outpatient ID 
followup. 

# Cirrhosis: Secondary to Caroli syndrome. RUQ ultrasound at OSH 
consistent with previous studies. Continued ursodiol, low sodium 
diet. 
 
# Lower extremity edema: Patient on amiloride and Lasix at home 
which were held initially in the setting of GNR bacteremia due 
to concern for the development of sepsis. Restarted prior to 
discharge.
 
# Transitional Issues:
-Pt will need to continue IV cefepime via PICC/infusion pump 
until scheduled ID followup
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ursodiol 600 mg PO BID 
2. Omeprazole 20 mg PO DAILY Start: In am 
3. Ascorbic Acid ___ mg PO BID 
4. Citalopram 30 mg PO DAILY Start: In am 
5. Vitamin D ___ UNIT PO DAILY Start: In am 
6. Loratadine *NF* 10 mg Oral daily 
7. Glucosamine 1500 Complex *NF* (glucosamine-chondroit-vit 
C-Mn) 500-400 mg Oral daily 
8. Furosemide 20 mg PO DAILY Start: In am 
9. Amiloride HCl 5 mg PO DAILY Start: In am 
10. Cialis *NF* (tadalafil) 10 mg Oral prn 

 
Discharge Medications:
1. CefePIME 2 g IV Q8H 
RX *cefepime 2 gram 1 infusion every eight (8) hours Disp #*108 
Gram Refills:*0
2. Amiloride HCl 5 mg PO DAILY 
3. Ascorbic Acid ___ mg PO BID 
4. Citalopram 30 mg PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Ursodiol 600 mg PO BID 
8. Vitamin D ___ UNIT PO DAILY 
9. Cialis *NF* (tadalafil) 10 mg Oral prn 
10. Glucosamine 1500 Complex *NF* (glucosamine-chondroit-vit 
C-Mn) 500-400 mg Oral daily 
11. Loratadine *NF* 10 mg Oral daily 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: E.coli bacteremia, Caroli's syndrome, End 
stage liver disease, post nasal drip
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for fever and 
chills, and found to have E.coli bacteremia thought likely due 
to cholangitis (infected bile sitting in dilated biliary ducts) 
from your Caroli syndrome. You were treated with antibiotics and 
your condition improved. You were discharged home in stable 
condition to follow up with your PCP. 

The following changes were made to your medication regimen: 
START cefepime 2grams every 8 hours from ___
 
Followup Instructions:
___